US07700594B2
1-Methyl-2-phenyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzimidazole
A mixture of 5-bromo-1-methyl-2-phenyl-1H-benzimidazole (616 mg, 2.14 mmol), [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (52.6 mg, 0.0644 mmol), bis(pinacolato)diboron (667 mg, 2.57 mmol), 1,1′-bis(diphenylphosphino)ferrocene (36.8 mg, 0.0644 mmol) and AcOK (638 mg, 6.44 mmol) in 1,4-dioxane (10 ml) was purged with N2 for 5 min, and was then heated at 100° C. under an atmosphere of Nitrogen for 16 h. The mixture was then treated with saturated NH4Cl (20 ml), extracted with EtOAc (3×20 ml) and the combined extracts washed with brine (3×20 ml), dried over MgSO4 and concentrated in vacuo to afford crude product which was purified by chromatography over silica gel eluting with 30% (250 ml) and 40% (250 ml) EtOAc/Heptane to give a white solid that was triturated with 50% EtOAc/Heptane (10 ml) to yield the title compound. 1H NMR (400 MHz, CDCl3) δ ppm=1.38 (s, 12H), 3.86 (s, 3H), 7.39 (dd, 1H, J=1.2 & 8.0 Hz), 7.50-7.55 (m, 3H), 7.76-7.79 (m, 3H) and 8.29 (d, 1H, J=0.8 Hz). MS(ES+): m/z 335.29 (100) [MH+].

reactant | 5-bromo-1-methyl-2-phenyl-1H-benzimidazole | 2.14 mmol, 616 mg | BrC1=CC2=C(N(C(=N2)C2=CC=CC=C2)C)C=C1 | C14H11BrN2
reactant | dichloromethane | 0.0644 mmol, 52.6 mg | ClCCl | CH2Cl2
reactant | bis(pinacolato)diboron | 2.57 mmol, 667 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | AcOK | 6.44 mmol, 638 mg | C(=O)(C)O[K]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.0644 mmol, 36.8 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1-Methyl-2-phenyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzimidazole | CN1C(=NC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C)C2=CC=CC=C2 | C20H23BN2O2
